2151-02-06 08:15:00 Physician Resident Progress Note
Chief Complaint: Influenza, intubated
   24 Hour Events:
   Re-sited IJ to the left; placed A-line.  Febrile up to 102.2 rectally.
   Off pressors, got bronched with pus found in LLL.  Metoprolol IV for
   tachycardia; noted that SBP did NOT increase with rate slowed to 100
   from 140.  Attempted to calculate a RSBI but pt was apneic on CPAP+PS
   mode; pt sedated at the time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-2-5**] 04:24 PM
   Vancomycin - [**2151-2-5**] 08:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2151-2-5**] 09:00 AM
   Famotidine (Pepcid) - [**2151-2-5**] 08:00 PM
   Coumadin (Warfarin) - [**2151-2-5**] 08:00 PM
   Metoprolol - [**2151-2-5**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-6**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.6
C (97.8
   HR: 113 (93 - 146) bpm
   BP: 93/62(73){82/54(65) - 134/79(323)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 7 (3 - 15)mmHg
   Total In:
                                                                  7,381 mL
                                                                    884 mL
   PO:
   TF:
   IVF:
                                                                  4,251 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    350 mL
   Urine:
                                                                    785 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,596 mL
                                                                    534 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.4/33/123
   Ve: 7.5 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Intubated
   IJ without evidence of infection
   CV: Irregularly irregular and tachycardic. No murmurs or rubs.
   Pulm: Crackles b/l anteriorly, no wheezes
   Abd: +BS, soft
   Ext: warm, no edema
   Labs / Radiology
   113 K/uL
   11.5 g/dL
   91 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   14 mg/dL
   111 mEq/L
   135 mEq/L
   32.9 %
   6.6 K/uL
        [image002.jpg] INR 4.6
                             [**2151-2-5**]  06:13 AM
                             [**2151-2-5**]  01:30 PM
                             [**2151-2-5**]  05:47 PM
                             [**2151-2-6**]  04:21 AM
                             [**2151-2-6**]  04:39 AM
                             [**2151-2-6**]  05:37 AM
   WBC
   6.6
   Hct
   32.9
   Plt
   113
   Cr
   0.7
   TropT
   0.05
   TCO2
   21
   22
   20
   20
   Glucose
   91
   Other labs: PT / PTT / INR:41.5/61.6/4.6, CK / CKMB /
   Troponin-T:551/6/0.05, Differential-Neuts:78.0 %, Band:17.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, D-dimer:3745 ng/mL, Lactic Acid:1.8 mmol/L, Ca++:7.0
   mg/dL, Mg++:1.6 mg/dL, PO4:1.5 mg/dL
   Micro:
   Sputum without organisms, Cx pending
   BCx pending
   Assessment and Plan
   79 yo M respiratory failure secondary to influenza.  Now off pressors.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) with Viral Pneumonia
   Patient wtih respiratory failure [**1-30**] viral pneumonia. ABG shows good
   oxygenation.
   -SBT attempted and failed due to apnea, most likely oversedated
   - would decrease sedation and change to pressure support and monitor
   today
   -sputum cx pending, no mircoprganisms on gm stain
   -On Tamiflu
   -continue vancomycin and levofloxacin for concern of bacterial
   superinfection given bandemia and pus in LLL on bronchoscopy
   -Droplet precautions
   -Daily CXRs
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Patient with viral pneumonia with continued fever, bandemia,
   tachycardia, hypotension. Has been off pressors.
   -SVO2 = 82%
   -CVP8 now, Goal CVP 8 to 12 mmHg
   -UOP overnight good
   -goal MAP 65 mmHg, and a urine output 0.5 mL/kg per hour
 Demand ischemia:
   Patient with troponin bump with lateral <[**Street Address(2) 489**] depressions in setting
   of sepsis and AFib with RVR.
   -troponins trending down
   -Continue aspirin and statin
   -hold metoprolol given low pressures
 ATRIAL FIBRILLATION (AFIB): Continue to have episodes of RVR
   overnight, responsive to IV metoprolol.
   -INR at 4.6 this morning, will hold coumadin and trend coags
   -once INR no longer supratherapeutic, would start heparin gtt for
   anticoagulation during acute illness
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   - pt with crackles on exam but continues to sat well on current vent
   settings
   ICU Care
   Nutrition:  Will start tube feeds and consult nutrition
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2151-2-5**] 06:00 AM
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Supratherapeutic INR at 4.6
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Wife
   [**Name (NI) 66**] status: Full code
   Disposition:ICU
   Note written by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], MS IV and edited by [**First Name8 (NamePattern2) 361**]
   [**Last Name (NamePattern1) 512**], MD.   I have examined the patient and agree with the plan of
   care as outlined above.

2151-02-07 07:51:00 Physician Resident Progress Note
Chief Complaint: 79M with CHF, afib, Alzheimer's admitted with
   influenza
   24 Hour Events:
   On pressure support most of day; did well but switched back to AC in
   evening
   Held coumadin, will need to be started on heparin gtt once INR no
   longer supratherapeutic
   Started on tube feeds; will watch lytes closely per nutrition
   Had episode of ?rigors around 8pm, VSS, was able to pull away from
   noxious stimuli
   DDx was undersedation vs seizure vs bacteremia
   Sent blood cultures and stat labs; increased sedation; gave ativan 2mg
   IV x 1 with resolution
   Blood pressures dropped about one hour later into SBP 80s; responded to
   IV fluids and weaning sedation
   Cardiac enzymes came back with troponin 0.13; EKG unchanged apart from
   RVR
   Started metoprolol 12.5 TID, increased simvastatin to 80, already on
   ASA
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Oseltamivir 75mg PO BID
   Levofloxacin 750mg IV daily
   Vancomycin 1g IV BID
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other medications:
   ASA 325 daily, Simvastatin 80 daily, Metoprolol 12.5mg PO TID
   Famotidine
   Flowsheet Data as of  [**2151-2-7**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 131 (96 - 131) bpm
   BP: 136/85(104){79/52(62) - 136/85(104)} mmHg
   RR: 18 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 11 (6 - 14)mmHg
   Total In:
                                                                  3,727 mL
                                                                    542 mL
   PO:
   TF:
                                                                    100 mL
                                                                    111 mL
   IVF:
                                                                  3,512 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                    771 mL
                                                                    325 mL
   Urine:
                                                                    766 mL
                                                                    325 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,956 mL
                                                                    217 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 748 (748 - 960) mL
   PS : 12 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.34/27/155/17/-9
   Ve: 7.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), irregularly irregular
   tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   128 K/uL
   11.3 g/dL
   102 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.0 mEq/L
   14 mg/dL
   111 mEq/L
   136 mEq/L
   32.2 %
   10.5 K/uL
        [image002.jpg]
   Micro
   2/8,[**2-6**] blood cx NGTD
   [**2-5**] urine cx negative
   [**2-5**] urine legionella antigen negative
   [**2-5**] sputum >25 polys no organisms on gram, culture NGTD legionella cx
   NGTD
   CXR: read pending, L lower lung field opacity sm L effusion
                             [**2151-2-5**]  05:47 PM
                             [**2151-2-6**]  04:21 AM
                             [**2151-2-6**]  04:39 AM
                             [**2151-2-6**]  05:37 AM
                             [**2151-2-6**]  08:49 AM
                             [**2151-2-6**]  01:46 PM
                             [**2151-2-6**]  08:14 PM
                             [**2151-2-6**]  08:18 PM
                             [**2151-2-7**]  05:02 AM
                             [**2151-2-7**]  05:14 AM
   WBC
   6.6
   10.5
   Hct
   32.9
   32.2
   Plt
   113
   128
   Cr
   0.7
   0.8
   0.7
   TropT
   0.13
   0.13
   TCO2
   22
   20
   20
   21
   21
   21
   15
   Glucose
   91
   117
   102
   Other labs: PT / PTT / INR:63.0/70.3/7.6, CK / CKMB /
   Troponin-T:213/12/0.13, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:3745 ng/mL,
   Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, Ca++:7.2 mg/dL, Mg++:2.0
   mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Oxygenating adequately with good RSBI this AM, wean PSV as tolerated
   ?exubate today
 PNEUMONIA, VIRAL
   Bandemia improved, afebrile
   Continue oseltamivir for influenza currently day 3
   Pt. had pus from LLL on [**2-5**] bronch so continue levofloxacin for
   ?bacterial superinfection.  C/c vancomycin no GPCs isolated home
   dwelling. Followup cultures and reculture if febrile
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Off of pressors, making adequate urine. Hypotensive yesterday in
   setting of ativan, now with improved BP. Continue antibiotics as above.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Enzymes elevated yesterday in setting of RVR, suspect demand ischemia.
   CK
s trending down with flat tropn, continue to trend. Continue medical
   management with aspirin, statin, beta blocker; will titrate beta
   blocker upward for further rate control today.
 ATRIAL FIBRILLATION (AFIB)
   Still tachycardic, increase metoprolol. Holding anticoagulation [**1-30**]
   supratherapeutic INR. Will restart heparin drip when INR <2.
 INR elevated
   Patient on coumadin at home, held here. No evidence of active bleeding
   with stable Hct. Give PO vitamin K today.
   Will repeat DIC labs.
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Clinically ~euvolemic, goal net even today. Could check TTE to assess
   pump function (no echo on file here) but not urgent.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-6**] 02:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-2-5**] 06:00 AM
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-07 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 EKG - At [**2151-2-7**] 12:24 AM
   Had ? rigor vs. agitation last night, got more sedation, became mildly
   hypotensive and required 3 boluses but BP responded, now w/ increased
   Cl and NAG acidosis
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-2-6**] 04:05 PM
   Vancomycin - [**2151-2-7**] 08:01 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2151-2-6**] 08:00 PM
   Metoprolol - [**2151-2-7**] 06:30 AM
   Other medications:
   ASA, TAMIFLU, Famotidine, RISS, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-7**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 93 (93 - 131) bpm
   BP: 101/62(76){79/52(62) - 138/85(104)} mmHg
   RR: 11 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 9 (6 - 14)mmHg
   Total In:
                                                                  3,727 mL
                                                                  1,005 mL
   PO:
   TF:
                                                                    100 mL
                                                                    150 mL
   IVF:
                                                                  3,512 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                    771 mL
                                                                    420 mL
   Urine:
                                                                    766 mL
                                                                    420 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,956 mL
                                                                    585 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 543 (543 - 550) mL
   Vt (Spontaneous): 748 (748 - 960) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.34/27/155/17/-9
   Ve: 7.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   128 K/uL
   102 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.0 mEq/L
   14 mg/dL
   111 mEq/L
   136 mEq/L
   32.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2151-2-5**]  05:47 PM
                             [**2151-2-6**]  04:21 AM
                             [**2151-2-6**]  04:39 AM
                             [**2151-2-6**]  05:37 AM
                             [**2151-2-6**]  08:49 AM
                             [**2151-2-6**]  01:46 PM
                             [**2151-2-6**]  08:14 PM
                             [**2151-2-6**]  08:18 PM
                             [**2151-2-7**]  05:02 AM
                             [**2151-2-7**]  05:14 AM
   WBC
   6.6
   10.5
   Hct
   32.9
   32.2
   Plt
   113
   128
   Cr
   0.7
   0.8
   0.7
   TropT
   0.13
   0.13
   TCO2
   22
   20
   20
   21
   21
   21
   15
   Glucose
   91
   117
   102
   Other labs: PT / PTT / INR:63.0/70.3/7.6, CK / CKMB /
   Troponin-T:213/12/0.13, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:3745 ng/mL,
   Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, Ca++:7.2 mg/dL, Mg++:2.0
   mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): try PSV and see if he can
   tolerate NAG acidosis from a work of breathing standpoint, extubate if
   he can do this (will wean sedation first)
 PNEUMONIA: Influenza and possible superinfection - on Tamiflu and can
   d/c Vancomycin given no MRSA or GP orgs, finish course of Levaquin
   (bands gone and WBC improving)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): resolved, abx as above
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   latest troponin 0.13, no significant change in EKG - on beta-blocker
 ATRIAL FIBRILLATION (AFIB): Lopressor, systemically anticoagulated
 COAGULOPATHY: await fibrinogen (DSPs are improved and no schistos so
   likely not in DIC) so suspect coumadin use explains - will give 5mg
   vitamin K and f/u labs
 PPX: H2 blocker, anticoagualted, VAP precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-2-5**] 06:00 AM
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2151-02-08 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2151-02-08 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2151-2-7**] MS-4 PN
   ON: As weaned sedation continued to have depressed MS responsive to
   sternal rub only therefore did not extubate, will reevaluate [**2-8**]
   INR elevated, given vitamin K. No gross bleeding
   No evidence of significant DIC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-2-7**] 08:01 AM
   Levofloxacin - [**2151-2-7**] 04:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-2-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 111 (81 - 150) bpm
   BP: 127/85(99){101/58(74) - 156/103(122)} mmHg
   RR: 21 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  1,903 mL
                                                                    783 mL
   PO:
   TF:
                                                                    609 mL
                                                                    380 mL
   IVF:
                                                                    899 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    265 mL
   Urine:
                                                                    815 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,088 mL
                                                                    518 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 543 (543 - 543) mL
   Vt (Spontaneous): 612 (546 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/32/154/20/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: thin frail elderly
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular no
   m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   143 K/uL
   11.4 g/dL
   120 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   32.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2151-2-6**]  08:49 AM
                             [**2151-2-6**]  01:46 PM
                             [**2151-2-6**]  08:14 PM
                             [**2151-2-6**]  08:18 PM
                             [**2151-2-7**]  05:02 AM
                             [**2151-2-7**]  05:14 AM
                             [**2151-2-7**]  02:30 PM
                             [**2151-2-7**]  02:32 PM
                             [**2151-2-8**]  03:09 AM
                             [**2151-2-8**]  03:33 AM
   WBC
   10.5
   9.4
   Hct
   32.2
   32.9
   Plt
   128
   143
   Cr
   0.8
   0.7
   0.7
   0.7
   TropT
   0.13
   0.13
   0.16
   0.17
   TCO2
   21
   21
   21
   15
   23
   21
   Glucose
   117
   102
   127
   120
   Other labs: PT / PTT / INR:22.8/46.5/2.2, CK / CKMB /
   Troponin-T:120/8/0.17, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: Left basal opacity is increased consistent with increasing
   atelectasis.  Small
   bilateral pleural effusions are stable.  Mild diffuse interstitial
   opacities
   are unchanged.  Right lower lobe opacity is stable.
   IMPRESSION:  Increased left lower lobe retrocardiac atelectasis.
   Microbiology: [**2-6**] BCx: NGTD
   .
   [**2151-2-5**] 6:37 pm BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2151-2-6**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         STAPH AUREUS COAG +.    ~6OOO/ML.
   .
   [**2151-2-5**] 6:00 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2151-2-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2151-2-7**]):    NO GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   .
   [**2-5**] Urine Cx: negative
   Assessment and Plan
   79 yo M with Alzheimer
s Disease, Afib admitted for respiratory failure
   [**1-30**] influenza, intubated but off pressors.
   1.  Respiratory Failure:  Unable to wean off vent yesterday due to
   depressed MS-responsive only to sternal rub even when off sedation.
   [**Month (only) 60**] have some element of pulmonary edema given worsening CXR and
   aggressive fluids on admission
   -RSBI of 38, requiring suctioning q1 hr, fluid is frothy
   -ABG 7.41/32/154
   -despite adequate RSBI and ABG, extubation unlikely to be successful at
   this time
   -would continue to wean sedation
   -monitor UOP
   -am CXR
   2.  Pneumonia:  DFA positive for influenza B, on Tamiflu.  Bronchoscopy
   showed pus in LLL, bronchial washings with 6000/ml MSSA.  Vacnomycin
   d/c'ed yesterday.  WBC 9.4 bandemia resolved.
   -continue Tamiflu
   -D/c levofloxacin and start Nafcillin for possible MSSA PNA
   superinfection
   3. Sepsis:  Off pressors >24h, UOP reduced this morning, CVP 12.  SBP
   drop yesterday to 80's, fluid responsive.  Current bp's 125/87,
   tachycardic
   -abx as above
   -monitor bp's closely as diuresing
   -fluid bolus if drops SB tp 80's
   4.  Elevated Troponin:  Mild elevation at 0.17 now, slight bump from
   previous.  Likely demand ischemia vs MI.  Currently medical management.
   -Continue on ASA, statin, b-block
   -will start heparin sq now that INR therapeutic at 2.2
   -continue to hold coumadin
   5.  Atrial Fibrillation:  Tachycardic on metoprolol 12.5mg tid, SBP's
   in 120's.
   -increase to metoprolol 25mg po tid for better rate control
   -monitor bp's especially in setting of diuresis
   -start heparin sq [**Hospital1 **] for anticoagulation
   6.  Elevated INR:  Now 2.2 off coumadin, no signs of active bleeding.
   -continue to hold coumadin
   -anti-coagulation as above
   7.  History of heart failure:  Unclear of diagnosis, no echo on
   record.  Clinically mild volume ovreload with worsened CXR and frothy
   secretions.
   -Echo to evaluate
   **********PGY1 addendum************
   Agree with above MS4 note, will diurese to goal -1 liter today as CXr
   with worsening pulmonary edema, will obtain echo to better characterize
   for pump function.  Will maintain on vent for now given thick
   secretions and ongoing pulmonary processes (influenza and MSSA
   superinfection). Add nafcillin for MSSA coverage (day 1 = [**2-8**]), can
   d/c levofloxacin. Continue oseltamivir day [**4-3**]. Uptitrate BB for better
   rate control for Afib. As we are holding coumadin and pt
s INR now
   dropping s/p vitamin K, will begin heparin gtt. Continue medical
   management of CAD.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-7**] 11:00 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-2-5**] 06:00 AM
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU until extubated

2151-02-08 10:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   attempted to wean sedation, but mental status remained depressed
   secretions copious, requiring suctioning every hour.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-2-7**] 08:01 AM
   Levofloxacin - [**2151-2-7**] 04:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-2-8**] 05:30 AM
   Fentanyl - [**2151-2-8**] 05:30 AM
   Other medications:
   ASA, H2B, SQI, statin, vit K 10 mg PO daily, Lopressor,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-8**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 107 (81 - 150) bpm
   BP: 119/76(90){101/58(74) - 156/103(122)} mmHg
   RR: 14 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 12 (7 - 17)mmHg
   Total In:
                                                                  1,903 mL
                                                                  1,128 mL
   PO:
   TF:
                                                                    609 mL
                                                                    545 mL
   IVF:
                                                                    899 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    376 mL
   Urine:
                                                                    815 mL
                                                                    376 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,088 mL
                                                                    752 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 553 (546 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/32/154/20/-2
   Ve: 9.3 L/min
   PaO2 / FiO2: 385
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   143 K/uL
   120 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   32.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2151-2-6**]  08:49 AM
                             [**2151-2-6**]  01:46 PM
                             [**2151-2-6**]  08:14 PM
                             [**2151-2-6**]  08:18 PM
                             [**2151-2-7**]  05:02 AM
                             [**2151-2-7**]  05:14 AM
                             [**2151-2-7**]  02:30 PM
                             [**2151-2-7**]  02:32 PM
                             [**2151-2-8**]  03:09 AM
                             [**2151-2-8**]  03:33 AM
   WBC
   10.5
   9.4
   Hct
   32.2
   32.9
   Plt
   128
   143
   Cr
   0.8
   0.7
   0.7
   0.7
   TropT
   0.13
   0.13
   0.16
   0.17
   TCO2
   21
   21
   21
   15
   23
   21
   Glucose
   117
   102
   127
   120
   Other labs: PT / PTT / INR:22.8/46.5/2.2, CK / CKMB /
   Troponin-T:120/8/0.17, Differential-Neuts:91.8 %, Lymph:5.0 %, Mono:2.9
   %, Eos:0.1 %, D-dimer:1624 ng/mL, Fibrinogen:665 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: ETT and LIJ OK; right base airspace disease; left
   effusion vs. atelectasis
   Microbiology: Staph aureus
   Assessment and Plan
   79 y/o man with respiratory failure secondary to influenza pneumonia,
   likely with Staphylococcal superinfection.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   --> appeared to fail SBT today with tachypnea, tachycardia, etc.
   --> suspect that he may have a component of pulmonary edema on top of
   other problems
   --> will attempt diuresis today with goal of -1000 to -1500
   --> re-attempt RSBI/SBT tomorrow
 PNEUMONIA, VIRAL (Influenza)
   --> now likely with Staphylococcal superinfection
   --> add coverage for MSSA.  D/C levofloxacin since no identified GNR
   pathogens and negative Legionella urinary antigen.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**1-30**] sedation.  When secretions decreased, reduce sedation.
 MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   --> myositis secondary to influenza also possible although less likely
   than demand
   --> increased beta blocker gently today
 ATRIAL FIBRILLATION (AFIB)
   --> add heparin today, since INR is trending down
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   --> diuresis today
   --> check echo
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-8**] 08:39 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2151-2-5**] 06:00 AM
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt, begin heparin today)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2151-02-10 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started ACE I for afterload reduction
   No further diuresis during day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-2-7**] 08:01 AM
   Levofloxacin - [**2151-2-7**] 04:00 PM
   Nafcillin - [**2151-2-10**] 06:30 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Metoprolol - [**2151-2-9**] 09:58 AM
   Midazolam (Versed) - [**2151-2-9**] 04:57 PM
   Fentanyl - [**2151-2-9**] 04:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 104 (84 - 151) bpm
   BP: 139/80(100){88/53(65) - 162/102(122)} mmHg
   RR: 23 (13 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 8 (2 - 13)mmHg
   Total In:
                                                                  3,866 mL
                                                                    893 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    524 mL
   IVF:
                                                                  1,266 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  5,430 mL
                                                                    680 mL
   Urine:
                                                                  5,430 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (517 - 647) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.49/39/181/27/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 453
   Physical Examination
   General Appearance: Thin, elderly, slightly agitated
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular,
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   223 K/uL
   11.0 g/dL
   154 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   141 mEq/L
   30.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2151-2-7**]  02:32 PM
                             [**2151-2-8**]  03:09 AM
                             [**2151-2-8**]  03:33 AM
                             [**2151-2-8**]  05:24 PM
                             [**2151-2-8**]  05:53 PM
                             [**2151-2-9**]  04:23 AM
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
   WBC
   9.4
   7.6
   7.0
   Hct
   32.9
   33.0
   30.1
   Plt
   143
   162
   223
   Cr
   0.7
   0.7
   0.8
   0.9
   0.8
   TropT
   0.17
   0.20
   TCO2
   23
   21
   23
   28
   31
   Glucose
   120
   155
   129
   140
   154
   Other labs: PT / PTT / INR:17.6/76.3/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL2/13 CXR
   Imaging: [**2-10**] CXR PND
   [**2-9**] CXR
   Moderate bilateral pleural effusions layering posteriorly have
   increased since [**2-7**].  Borderline interstitial pulmonary edema
   is present, probably improved since [**2-8**] and opacification at
   the medial aspect of the left lung base is probably residual
   atelectasis.  Heart size is normal.  Tip of the endotracheal tube is no
   more than 2 cm from the carina, with the chin in neutral position, [**12-30**]
   cm below optimal placement.  Left internal jugular line tip projects
   over the upper SVC and a nasogastric tube ends in the stomach.  No
   pneumothorax.
   [**2-8**] Echo
   IMPRESSION: Severe global left ventricular hypokinesis/akinesis. Mild
   mitral regurgitaiton. Borderline pulmonary artery systolic
   hypertension. No prior echo for comparison.
   Microbiology: [**2-5**] MSSA in sputum
   all blood Cx NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          ABGs with excellent gas exchange, continues to do well on
   PSV
   -          Pending acceptable secretions, would do SBT and extubate
   today if tolerated, with diuresis and afterload reduction in advance
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -          acutely decreased EF of 15-20% may be [**1-30**] viral
   cardiomyopathy vs. ischemic insult from hypotension at OSH when he
   presented in RVR
   -          would diurese again today in anticipation of extubation with
   resultant improved venous return and possible exacerbation of pulmonary
   edema
   -          uptitrate ACE-I
   -          continue medical management with diuresis, metoprolol, and
   ACE-I
 PNEUMONIA, VIRAL + MSSA
   -          d/c oseltamivir as now s/p 5 day course (started on [**2-5**])
   -          Covering MSSA from BAL with nafcillin, unclear if this
   sparse isolate is significant but patient at risk for staph pneumonia
   so will treat for 7day course
   -          CXR this AM with ? abscess vs PTX at LLL
 will repeat study
   as ? artifact
 ATRIAL FIBRILLATION (AFIB)
   -          on IV heparin for anticoagulation
   -           would increase metoprolol to 75mg tid in advance of
   extubation today
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Has been maintaining urine output, target MAP>65
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          has dementia at baseline, ? residual sedation effects
 Demand Ischemia
   -          Continue medical CAD management with ASA, beta blocker,
   ACE-I, and statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-10**] 12:26 AM 70 mL/hour
 hold feeds
   today prior to extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-10 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   afterload reduction begun
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-2-7**] 04:00 PM
   Nafcillin - [**2151-2-10**] 06:30 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-2-9**] 04:57 PM
   Fentanyl - [**2151-2-9**] 04:57 PM
   Other medications:
   H2B, CHG, captopril, metoprol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-10**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 104 (84 - 119) bpm
   BP: 115/66(84){88/53(65) - 149/93(114)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 8 (2 - 13)mmHg
   Total In:
                                                                  3,866 mL
                                                                  1,284 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    712 mL
   IVF:
                                                                  1,266 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  5,430 mL
                                                                  1,020 mL
   Urine:
                                                                  5,430 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (517 - 647) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.49/39/181/27/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   223 K/uL
   154 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   141 mEq/L
   30.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2151-2-7**]  02:32 PM
                             [**2151-2-8**]  03:09 AM
                             [**2151-2-8**]  03:33 AM
                             [**2151-2-8**]  05:24 PM
                             [**2151-2-8**]  05:53 PM
                             [**2151-2-9**]  04:23 AM
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
   WBC
   9.4
   7.6
   7.0
   Hct
   32.9
   33.0
   30.1
   Plt
   143
   162
   223
   Cr
   0.7
   0.7
   0.8
   0.9
   0.8
   TropT
   0.17
   0.20
   TCO2
   23
   21
   23
   28
   31
   Glucose
   120
   155
   129
   140
   154
   Other labs: PT / PTT / INR:17.6/76.3/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, Differential-Neuts:91.8 %, Lymph:5.0 %, Mono:2.9
   %, Eos:0.1 %, D-dimer:1624 ng/mL, Fibrinogen:665 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: overall similar but unusual left basilar lucency
   Microbiology: Sputum: MSSA
   Influenza DFA (+)
   Otherwise NGTD.
   Assessment and Plan
   79 y/o man with respiratory failure from influenza with Staphylococcal
   superinfection.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - improved; now on PSV 5/5
   - will do formal SBT.  [**Month (only) 60**] be limited by mental status and secretions
 PNEUMONIA, VIRAL
   Influenza
   Received treatment course with tamiflu
 Abnormal CXR
   Repeat CXR to see if lucency persists.  Probably artifactual but PTX
   and cavitationin DDx.
   If persists on CXR, consider CT.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   - now resolved
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Appears to be slowly improving, now off sedation.  Awake but not
   following commands.  Would prefer
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -          latest troponin 0.13, no significant change in EKG
   -          vs influenza myocarditis
   -          adequately treated for NSTEMI, although doubt unstable
   plaque
 ATRIAL FIBRILLATION (AFIB)
   - metoprolol for rate control
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   - ?influenza myositis vs. other causes
   - will repeat echo in about a week
   - increase afterload reduction today
   - if still has enough systemic BP, can attempt diuresis
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-10**] 07:31 AM 70 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2151-02-11 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-2-10**] 01:04 PM
   Extubated, uneventful
   Given additional lasix with good response and stable hemodynamics
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-11**] 06:36 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Metoprolol - [**2151-2-10**] 04:45 PM
   Furosemide (Lasix) - [**2151-2-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 112 (99 - 122) bpm
   BP: 130/76(95){115/65(82) - 136/79(99)} mmHg
   RR: 27 (19 - 36) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 3 (3 - 10)mmHg
   Total In:
                                                                  1,908 mL
                                                                    332 mL
   PO:
   TF:
                                                                    690 mL
   IVF:
                                                                    948 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  2,140 mL
   Urine:
                                                                  1,720 mL
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                 -1,808 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 19
   FiO2: 40%
   SpO2: 95%
   ABG: 7.50/36/133/24/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Gen: opens eyes to voice, occasionally follows commands
   Cor: irregularly irregular, tachycardic
   Lungs: Coarse end-expiratory wheezes but no crackles appreciated
   Ext: no c/c/e
   Labs / Radiology
   364 K/uL
   10.8 g/dL
   104 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   31.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2151-2-8**]  05:53 PM
                             [**2151-2-9**]  04:23 AM
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
   WBC
   7.6
   7.0
   9.8
   Hct
   33.0
   30.1
   31.1
   Plt
   162
   223
   364
   Cr
   0.8
   0.9
   0.8
   0.9
   TCO2
   23
   28
   31
   30
   29
   29
   Glucose
   129
   140
   154
   104
   Other labs: PT / PTT / INR:15.9/93.0/1.4, CK / CKMB /
   Troponin-T:143/6/0.20, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, VIRAL
 Influenza plus MSSA
   -          s/p course of tamiflu, d/c droplet precautions as s/p 7 days
   since DFA +
   -          continue nafcillin day [**4-5**]
   -          wean off O2, pt was satting 97% with face tent off to the
   side this AM
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          CVP is down to 3, Does not sound crackly on exam,  so would
   not diurese further today. Goal even.
   -          Continue medical CHF management with ACE-I (enalaprilat IV)
   and BB
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - resolved
   -          MAP
s remain acceptable and pt remains off pressors
   -          Continue nafcillin as above
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          pt with known underlying dementia, could also be [**1-30**]
   remnants of sedation
   -          will perform head CT to further evaluate
 Alkalosis
 greatest contribution is from volume contraction in
   setting of diuresis. Minor element of respiratory alkalosis. Anticipate
   normalization with cessation of diuresis
 Demand Ischemia
   -          now resolved, occurring in setting of hypotension during
   afib with RVR and sepsis from influenza
   -          medical CAD management with ASA, BB, ACE-I, and statin
 ATRIAL FIBRILLATION (AFIB)
   -          continue heparin gtt
   -          rate control marginal, uptitrate metoprolol to q4h from q6h
   ICU Care
   Nutrition:
   Will hold heparin gtt for several hours and place NGT for tubefeeding,
   pt likely a high aspiration risk
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-2-5**] 12:21 PM
 can d/c today if PIV available
   Arterial Line - [**2151-2-5**] 02:37 PM -  can d/c today
   Prophylaxis:
   DVT: pneumoboots, systemic heparin gtt
   Stress ulcer: PPI
   VAP:  extubated, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-11 10:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-2-10**] 01:04 PM
   Extubated.  Stable from respiratory standpoint after.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-11**] 06:36 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Metoprolol - [**2151-2-10**] 04:45 PM
   Furosemide (Lasix) - [**2151-2-11**] 12:00 AM
   Other medications:
   asa, statin, enalaprilat, Lopressor, PPI, others per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2151-2-11**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 108 (99 - 122) bpm
   BP: 116/67(84){116/65(82) - 134/79(98)} mmHg
   RR: 23 (21 - 36) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 9 (3 - 10)mmHg
   Total In:
                                                                  1,908 mL
                                                                    406 mL
   PO:
   TF:
                                                                    690 mL
   IVF:
                                                                    948 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  2,260 mL
   Urine:
                                                                  1,720 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                 -1,854 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.50/36/133/24/5
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Intermittently follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, Responds
   intermittently to voice and commands.  ?myoclonic
   Labs / Radiology
   10.8 g/dL
   364 K/uL
   104 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   31.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2151-2-8**]  05:53 PM
                             [**2151-2-9**]  04:23 AM
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
   WBC
   7.6
   7.0
   9.8
   Hct
   33.0
   30.1
   31.1
   Plt
   162
   223
   364
   Cr
   0.8
   0.9
   0.8
   0.9
   TCO2
   23
   28
   31
   30
   29
   29
   Glucose
   129
   140
   154
   104
   Other labs: PT / PTT / INR:15.9/93.0/1.4, CK / CKMB /
   Troponin-T:143/6/0.20, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR personally reviewed: right CP angle excluded. Basilar
   opacities persist.
   Assessment and Plan
   79 year-old man one-day s/p extubation, following respiratory failure
   from influenza with Staphylococcal superinfection.
 RESPIRATORY FAILURE s/p extubation
   -- doing well on shovel mask
   -- try nasal cannula
 PNEUMONIA, VIRAL
   Influenza
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -- ACEI
   -- metoprolol for AFib rate control
   -- CVP argues that his ventricular filling pressures are relatively low
 ALTERED MENTAL STATUS
   -- this is waxing and [**Doctor Last Name 42**] a bit and may represent delirium
   -- if this doesn't improve, will need further evaluation with CT to
   exclude ICH (given heparin)
 No enteral access
   -- and unable to swallow
   -- place NG tube after heparin off for a couple of hours
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   latest troponin 0.13, no significant change in EKG
   -- ASA, beta blocker, statin, heparin
 ATRIAL FIBRILLATION (AFIB)
   -- increase metoprolol
   He still remains tenuous and needs to be watched for at least a few
   more hours in a critical care setting given the intersection of
   severely altered mental status and just-extubated-yesterday respiratory
   failure.
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2151-2-5**] 12:21 PM
   Arterial Line - [**2151-2-5**] 02:37 PM
   Comments: If able to get peripheral lines, d/c CVL.  If not --> PICC
   and d/c CVL.  D/C arterial line.
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now
   Total time spent:  45 min

2151-02-12 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2151-2-11**] 04:32 PM
   weaned off O2, remains on face tent for secretions only
   Head CT to eval AMS showed no obvious bleed or stroke
   placed NGT, started TFs, but pt had ? aspiration, vomited a small amt
   green bile,  so TFs held
   SUBJ:
   opens eyes to voice but not interactive, frequent myoclonic jerking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-12**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-2-12**] 12:00 AM
   Metoprolol - [**2151-2-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-12**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 115 (92 - 124) bpm
   BP: 106/63(79){99/59(74) - 134/80(98)} mmHg
   RR: 28 (23 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  1,297 mL
                                                                    373 mL
   PO:
   TF:
                                                                     89 mL
   IVF:
                                                                  1,208 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                    710 mL
   Urine:
                                                                  2,895 mL
                                                                    560 mL
   NG:
                                                                    130 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,728 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.53/33/95.[**Numeric Identifier 607**]/25/4
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Thin, elderly, frail, frequent jerking
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular,
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   mild expiratory wheezes b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   429 K/uL
   9.2 g/dL
   122 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   108 mEq/L
   143 mEq/L
   27.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
   WBC
   7.0
   9.8
   15.1
   Hct
   30.1
   31.1
   27.2
   Plt
   223
   364
   429
   Cr
   0.9
   0.8
   0.9
   1.1
   TCO2
   28
   31
   30
   29
   29
   28
   Glucose
   140
   154
   104
   122
   Other labs: PT / PTT / INR:18.0/72.0/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: IMPRESSION:  There is no evidence of mass, mass effect or
   large acute
   territorial infarct, however, acute/subacute ischemic changes cannot be
   completely excluded, MRI is recommended if clinically warranted.
   In the brain parenchyma, there are multiple areas with low density in
   the
   subcortical white matter, likely consistent with microvascular ischemic
   changes.  Dense arteriosclerotic calcifications noted in both carotid
   siphons as well as in the left vertebral artery as described above.
   Mucosal thickening is identified in the maxillary sinuses with mucous
   retention cysts, there is also mucosal thickening in the sphenoidal,
   ethmoidal
   and left mastoid air cells as described above.
   Microbiology: [**2-2**] BCx, UCx ordered
   [**2-6**] BCx: PND
   [**2-5**] sputum: MSSA
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          head CT negative for acute pathology, shows chronic
   microvascular change
   -          consider MR to further evaluate for ischemic event
   -          pt with known underlying dementia, but with myoclonic
   jerking, this could be [**Last Name (un) 911**] Body dementia and not AD as previously
   thought
   -          unlikely remnants of sedation given timeframe
   -          will obtain formal neuron consult
   -          if no other obvious etiology, may need LP (hold heparin
   beforehand)
 LEUKOCYTOSIS and FEVER
   -          will obtain BCx, Ucx, sputum cx, and CXR this AM
   -          concern given ? aspiration of TF
s yesterday, so will
   broaden to vanc, add zosyn/cipro
   -          consider C Diff as etiology if diarrhea
 PNEUMONIA, VIRAL
 known Influenza plus MSSA
   -          s/p course of tamiflu
   -          will broaden naf to vanc as above (got 4 days of naf from
   [**Date range (1) 912**])
   -          weaned off O2 with good oxygenation but remains on FT for
   secretions
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          autodiuresed yesterday, now with slight bump in creatinine
   although still WNL
   -          would give 500cc bolus now to enhance renal perfusion,goal
   net even today
   -          Continue medical CHF management with ACE-I (change to
   captopril po) and BB (see afib)
 METABOLIC ALKALOSIS - worsening today
   -          could still be contraction alkalosis given impressive
   autodiuresis yesterday
   -          will give IVF today with goal of net even
   -          avoid NGT suction as will cause iatrogenic metabolic
   alkalosis
   -          no obvious medication as etiology
 DEMAND ISCHEMIA
   -          now resolved, occurring in setting of hypotension during
   afib with RVR and sepsis from influenza
   -          medical CAD management with ASA, BB, ACE-I, and statin
 ATRIAL FIBRILLATION (AFIB)
   -          continue heparin gtt
   -          rate control marginal but effect appears limited by half
   life of drug
   -          change metoprolol back to p.o., will dose it qid for now to
   maintain therapeutic effects thoughout the day
   ICU Care
   Nutrition:
   Comments: holding TFs for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-12 10:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure --> altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2151-2-11**] 04:32 PM
   Did well from a respiratory standpoint
   NG tube placed
   Mental status remains depressed
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-12**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-2-12**] 12:00 AM
   Metoprolol - [**2151-2-12**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-12**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 112 (92 - 124) bpm
   BP: 97/58(73){97/58(73) - 134/80(98)} mmHg
   RR: 24 (23 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  1,297 mL
                                                                    476 mL
   PO:
   TF:
                                                                     89 mL
   IVF:
                                                                  1,208 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                  1,010 mL
   Urine:
                                                                  2,895 mL
                                                                    860 mL
   NG:
                                                                    130 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,728 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.53/33/95.[**Numeric Identifier 607**]/25/4
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   429 K/uL
   122 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   108 mEq/L
   143 mEq/L
   27.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-2-9**]  04:36 AM
                             [**2151-2-9**]  05:07 PM
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
   WBC
   7.0
   9.8
   15.1
   Hct
   30.1
   31.1
   27.2
   Plt
   223
   364
   429
   Cr
   0.9
   0.8
   0.9
   1.1
   TCO2
   28
   31
   30
   29
   29
   28
   Glucose
   140
   154
   104
   122
   Other labs: PT / PTT / INR:18.0/72.0/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, ALT / AST:89/139, Alk Phos / T Bili:115/0.8,
   Differential-Neuts:91.8 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %,
   D-dimer:1624 ng/mL, Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.6
   mg/dL
   Imaging: CT without hemorrhage or mass.
   Left base opacity persists.
   Assessment and Plan
   79 year-old man admitted with respiratory failure from influenza with
   Staphylococcal superinfection.  He has now tolerated extubation for >
   24 hours.  Main issues today are his persistent depressed mental status
   and inability to tolerate tube feeding.  He may also have a LLL
   pneumonia.
 PNEUMONIA
   n        initially influenza with Staph superinfection
   n        possible additional LLL now (?aspiration) given increased
   leukocytosis
 broaden ABX
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE
   n        Doing well extubated
   n        Maintain afterload reduction and rate control
 ALTERED MENTAL STATUS
   Does not appear to be sedation-related. I doubt bacterial meningitis.
   Although I suspect it is simply toxic/metabolic, especially given his
   abnormal motion, he seems to favor his left side.  We will consult
   neurology for advice on further evaluation.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   n        NSTEMI
   n        Continue current management
 ATRIAL FIBRILLATION (AFIB)
   n        Attempt conversion to oral lopressor today
   ?feculent material via NGT
   n        Check KUB.  If non-diagnostic, CT abd
   ICU Care
   Nutrition: NPO
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   Code status: Full code
   Disposition : Needs to remain in ICU given ongoing high-frequency IV
   heart-rate control and depressed mental status of uncertain etiology
   Total time spent: 30 min

2151-02-13 08:02:00 Physician Resident Progress Note
Chief Complaint: 79M with dementia admitted with influenza
   24 Hour Events:
   Evaluated by neurology for myoclonus, no clear cause, consider MRI,
   defer LP
   Had brown guaiac + NG tube output, so KUB and CT abdomen done
   CT abdomen showed RP bleed
   Heparin gtt stopped
   Transfused 2u PRBCs for Hct drop (wife informed)
   Allergies:
   No Known Drug Allergies
   Antibiotics
   Ciprofloxacin 500mg PO q12 day 2
   Zosyn 4.5g IV q8 day 2
   Vancomycin 1g IV q12 day 2
   Other medications
   Aspirin, simvastatin
   Captopril 6.25 mg PO TID
   Metoprolol 50mg PO TID
   Flowsheet Data as of  [**2151-2-13**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 111 (98 - 126) bpm
   BP: 119/72(90){88/55(67) - 119/73(90)} mmHg
   RR: 31 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
           Total In:
                                                                  2,713 mL
                                                                    665 mL
   PO:
           TF:
   IVF:
                                                                  1,538 mL
                                                                    180 mL
   Blood products:
                                                                    175 mL
                                                                    385 mL
   Total out:
                                                                  1,915 mL
                                                                    560 mL
   Urine:
                                                                  1,765 mL
                                                                    560 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   9.2 g/dL
   103 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   108 mEq/L
   143 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
   Micro
   [**2-12**] blood NGTD, [**2-12**] urine NGTD, [**2-12**] sputum >10 epis
   [**2-5**] BAL MSSA 6000 colonies
   CXR
   CHEST, ONE VIEW:  Comparison with [**2151-2-11**].  Left retrocardiac
   opacity is unchanged.  Bilateral pleural effusions are also unchanged;
   the
   left is larger than the right.  Right lung appears clear, aside from
   changes
   at the apex, which have been seen on previous studies.  Surgical
   hardware in
   both glenohumeral joints is again noted. Mediastinal and hilar contours
   are
   unchanged.
   IMPRESSION:  Similar appearance of left retrocardiac atelectasis and
   bilateral
   pleural effusions.
   CT abd
   1.  Moderately large left retroperitoneal hematoma expanding the left
   psoas
   and quadratus lumborum.
   2.  No evidence of bowel obstruction.  Sigmoid diverticulosis without
   definitive evidence of acute diverticulitis.
   3.  Cholelithiasis.
   4.  Left greater than right bibasilar pleural effusions.
   5.  Copious stool within rectum.
   6.  Hypoattenuating segment II liver lesion likely represents a cyst.
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
   WBC
   7.0
   9.8
   15.1
   13.8
   Hct
   30.1
   31.1
   27.2
   22.2
   26.3
   Plt
   223
   364
   429
   375
   Cr
   0.8
   0.9
   1.1
   1.1
   TCO2
   31
   30
   29
   29
   28
   Glucose
   154
   104
   122
   103
   Other labs: PT / PTT / INR:17.8/28.5/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Has baseline dementia, but below baseline functional status per family.
   Seen by neurology, recommendations appreciated. Recent CT [**2-11**] without
   acute change. Could have had ischemic insult not detected on CT
   however. Agree that seizure is less likely. Could have encephalitis
   related to influenza. TSH, B12, folate, ammonia all unremarkable.
   --MRI today, will need pre-procedure sedation. Hold off on LP or EEG
   for now.
   --Treat infections as below, provide frequent reorientation
 Retroperitoneal hematoma
   Unclear etiology as no h/o recent instrumentation or fall, however
   patient did have quite elevated INR.
   Repeat PM Hct, if falling will consult vascular surgery for further
   evaluation. Holding heparin.
 Abdominal distension
   Has had guiac positive NGT drainage of uncertain etiology.
   No evidence of obstruction on CT abdomen, abdomen benign, follow.
 LEUKOCYTOSIS and FEVER, suspected VAP
   WBC improved today, no significant fevers. Had grown MSSA from sputum,
   broadened earlier in the week to vancomycin/zosyn/cipro in the setting
   of leukocytosis. Reculture if febrile, follow up cultures.
 PNEUMONIA, VIRAL
   s/p oseltamivir
 Transaminitis
   ALT, AST mildly elevated in setting of elevated CK
 suspect muscle
   source. Could be [**1-30**] influenza, also may be related to myoclonus. Will
   follow CK, urine output. Making adequate amounts of urine today so in
   setting of low EF hold of on additional IVF at this time.
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Continue beta blocker and ACEI, goal net even today
 DEMAND ISCHEMIA
   Resolved, continue ASA beta blocker ACEI statin.
 ATRIAL FIBRILLATION (AFIB)
   Continue rate control, need to titrate up beta blocker further. Holding
   on anticoagulation today in setting of finding of RP hematoma.
   ICU Care
   Nutrition:  holding tube feeds prior to MRI will restart subsequently
   Glycemic Control:  continue insulin sliding scale
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: protonix
   VAP:  n/a
   Communication:  with wife
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2151-02-13 10:56:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT abd yesterday showed RP bleed.  Hct 22.  Transfused 2 U PRBCs.
   Seen by neuro who felt this is toxic-metabolic encephalopathy.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-12**] 06:00 AM
   Vancomycin - [**2151-2-12**] 04:00 PM
   Piperacillin - [**2151-2-13**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2151-2-12**] 03:30 PM
   Other medications:
   insulin, colace, aspirin, simvastatin, pantoprazole, metoprolol 50 mg
   four times/day, captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-13**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 115 (98 - 126) bpm
   BP: 114/70(87){88/55(67) - 119/73(90)} mmHg
   RR: 25 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
           Total In:
                                                                  2,713 mL
                                                                    861 mL
   PO:
           TF:
   IVF:
                                                                  1,538 mL
                                                                    306 mL
   Blood products:
                                                                    175 mL
                                                                    385 mL
   Total out:
                                                                  1,915 mL
                                                                    680 mL
   Urine:
                                                                  1,765 mL
                                                                    680 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: JVP flat
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: LLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased, myoclonic jerking
   Labs / Radiology
   9.2 g/dL
   375 K/uL
   103 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   108 mEq/L
   143 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2151-2-10**]  03:22 AM
                             [**2151-2-10**]  03:35 AM
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
   WBC
   7.0
   9.8
   15.1
   13.8
   Hct
   30.1
   31.1
   27.2
   22.2
   26.3
   Plt
   223
   364
   429
   375
   Cr
   0.8
   0.9
   1.1
   1.1
   TCO2
   31
   30
   29
   29
   28
   Glucose
   154
   104
   122
   103
   Other labs: PT / PTT / INR:17.8/28.5/1.6, CK / CKMB /
   Troponin-T:143/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Imaging: CT abd:  moderately large left RP hematoma expanding the left
   psoas and quadratus muscles.  No SBO.  Diverticulosis.  Gallstones. L>R
   pleural effusion.
   Assessment and Plan
   79 y/o M w/influenza, recovering from respiratory failure, but now with
   continued delirium and new RP bleed.
 PNEUMONIA, VIRAL
   Influenza, with staph superinfection.  Respiratory failure improved,
   now on room air.
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE:  Likely secondary
   to influenza (as had normal EF before).  Continue beta-blocker,
   ace-inhibitor.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  His hypotension resolved
   but he had new leukocytosis yesterday, now improved after starting
   treatment for HCAP.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**1-30**] sedation.  Will attempt MRI although he may not tolerate it.  Will
   hold on LP as infectious CNS process seems unlikely.  Will need
   stabilization of metabolic derangements and, if technically possible,
   will pursue MRI
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI):  Likely demand in
   setting of sepsis.
 ATRIAL FIBRILLATION (AFIB):  Poorly rate controlled.  Increase
   metoprolol.  No anticoagulation given RP bleed.
 RETROPERITONEAL BLEED:  Appears to be spontaneous in setting of
   anticoagulation.  Holding anticoagulation, Hct stable, BP stable.  Will
   follow serial Hct, abd exam.  If it drops, would call vascular.  [**Month (only) 60**] be
   the cause of his fevers.
 INCREASED TRANSAMINASES:  Unclear cause of this, but trending down
   since yesterday.  No clear gallbladder pathology on CT scan.  Should
   not be irritation of liver capsule as hematoma is on the left.  Will
   continue to monitor.  If it increases, will get RUQ u/s to look for
   acalculous cholecystitis.  Will check CK in case this is muscle source.
   ICU Care
   Nutrition:
   Comments: will start after MRI
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 Minutes

2151-02-14 06:48:00 Physician Resident Progress Note
Chief Complaint: afib with RVR, demand ischemia, influenza
   24 Hour Events:
   contined to have clonus, remained poorly interactive
   attempted to get MRI but patient remained jittery despite ativan so
   aborted study
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-12**] 06:00 AM
   Piperacillin - [**2151-2-13**] 04:00 PM
   Vancomycin - [**2151-2-13**] 05:13 PM
   Ciprofloxacin - [**2151-2-13**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-14**] 12:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-13**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 112 (100 - 124) bpm
   BP: 81/66(74){79/58(72) - 121/77(93)} mmHg
   RR: 29 (20 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,819 mL
                                                                    821 mL
   PO:
             TF:
                                                                    269 mL
                                                                    454 mL
   IVF:
                                                                    725 mL
                                                                    167 mL
   Blood products:
                                                                    385 mL
   Total out:
                                                                  1,400 mL
                                                                    360 mL
   Urine:
                                                                  1,400 mL
                                                                    200 mL
   NG:
   Stool:
   160 mL
   Drains:
   Balance:
                                                                    419 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: room air
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   8.3 g/dL
   93 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.0 mEq/L
   21 mg/dL
   111 mEq/L
   144 mEq/L
   23.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
   WBC
   9.8
   15.1
   13.8
   14.4
   11.6
   Hct
   31.1
   27.2
   22.2
   26.3
   26.6
   23.4
   Plt
   364
   429
   375
   369
   366
   Cr
   0.9
   1.1
   1.1
   1.0
   TCO2
   30
   29
   29
   28
   Glucose
   104
   122
   103
   93
   Other labs: PT / PTT / INR:17.3/27.9/1.6, CK / CKMB /
   Troponin-T:1123/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: IMPRESSION:
   1.  Moderately large left retroperitoneal hematoma expanding the left
   psoas and quadratus lumborum.
   2.  No evidence of bowel obstruction.  Sigmoid diverticulosis without
   definitive evidence of acute diverticulitis.
   3.  Cholelithiasis.
   4.  Left greater than right bibasilar pleural effusions.
   5.  Copious stool within rectum.
   6.  Hypoattenuating segment II liver lesion likely represents a cyst.
   Microbiology: [**2-12**] BCx PND
   [**2-12**] UCx PND
   [**2-12**] Sputum contaiminated
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM) - Has baseline dementia, but
   below baseline functional status per family.
   - Seen by neurology, recommendations appreciated
   - Recent CT [**2-11**] without acute change, unable to tolerate MRI
   - seizure is less likely but follow up EEG
   - TSH, B12, folate, ammonia all unremarkable, so toxic metabolic
   unlikely
   - Could have encephalitis related to influenza
   - treat infections as below
 Retroperitoneal hematoma
   -          Transfuse 1 units PRBCs today, [**Male First Name (un) 482**] with 20mg IV lasix
   -          check HCT [**Hospital1 **]
   -          holding all heparin
   -          curbsided vascular, no intervention possible, keep INR ~1.5,
   serial HCTs
 Abdominal distension
   -          No evidence of obstruction on CT abdomen
   -          abdomen benign, follow serial exams.
 LEUKOCYTOSIS and FEVER - suspected VAP
   -          WBC improved today, low grade fevers.
   -          Had grown MSSA from sputum, broadened earlier in the week to
   vanc/zosyn/cipro in the setting of witnessed apsiration and progressive
   leukocytosis.
   -          Reculture sputum
   -          Check CXR today
 PNEUMONIA, VIRAL
   -          s/p oseltamivir course
 Transaminitis
   -          ALT, AST mildly elevated in setting of elevated CK
 suspect
   muscle source. Could be [**1-30**] influenza, also may be related to myoclonus
   -          Will follow CK, urine output
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          Continue beta blocker and ACEI, goal net even today
   -          Lasix to [**Male First Name (un) 482**] transfusion
 DEMAND ISCHEMIA
   -          Resolved, continue ASA (decrease to 81mg given RP bleed),
   beta blocker, ACEI, and statin
 ATRIAL FIBRILLATION (AFIB)
   -          Continue rate control, need to titrate up beta blocker
   further. Holding on anticoagulation in setting of finding of RP
   hematoma. Continue ASA as tolerated
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-14**] 03:15 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
 consider d/c today
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-14 10:26:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Did not tolerate MRI yesterday secondary to myoclonus.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2151-2-12**] 06:00 AM
   Piperacillin - [**2151-2-13**] 04:00 PM
   Vancomycin - [**2151-2-13**] 05:13 PM
   Ciprofloxacin - [**2151-2-13**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-14**] 08:30 AM
   Other medications:
   colace, aspirin, zocor, insulin sliding scale, cipro, captopril, zosyn,
   vanc, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-14**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 115 (100 - 124) bpm
   BP: 94/64(76){79/59(70) - 121/77(93)} mmHg
   RR: 31 (20 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,819 mL
                                                                  1,379 mL
   PO:
             TF:
                                                                    269 mL
                                                                    562 mL
   IVF:
                                                                    725 mL
                                                                    537 mL
   Blood products:
                                                                    385 mL
   Total out:
                                                                  1,400 mL
                                                                    690 mL
   Urine:
                                                                  1,400 mL
                                                                    200 mL
   NG:
   330 mL
   Stool:
   160 mL
   Drains:
   Balance:
                                                                    419 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), irregularly irregular. Heart sounds soft
   and largely obscured by breath sounds. No gallop or murmur noted.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), transmitted upper airway
   sounds. Diffuse rhonchi.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli.
   Labs / Radiology
   8.3 g/dL
   366 K/uL
   93 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.0 mEq/L
   21 mg/dL
   111 mEq/L
   144 mEq/L
   23.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2151-2-10**]  11:13 AM
                             [**2151-2-10**]  04:53 PM
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
   WBC
   9.8
   15.1
   13.8
   14.4
   11.6
   Hct
   31.1
   27.2
   22.2
   26.3
   26.6
   23.4
   Plt
   364
   429
   375
   369
   366
   Cr
   0.9
   1.1
   1.1
   1.0
   TCO2
   30
   29
   29
   28
   Glucose
   104
   122
   103
   93
   Other labs: PT / PTT / INR:17.3/27.9/1.6, CK / CKMB /
   Troponin-T:1123/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   79 y/o M w/dementia admitted with influenza pneumonia, now s/p
   extubation with delirium but somewhat improved mental status.
 PNEUMONIA, VIRAL
   Influenza.  Improved, now on room air with good oxygenation.
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE:  Likely influenza
   cardiomyopathy.  On beta-blocker and ace inhibitor, statin, aspirin.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Being treated empirically
   for VAP/HCAP due to leukocytosis and concern for witnessed aspiration
   event.  Currently on vanc, zosyn, and cipro.
   - check sputum cx
   - repeat CXR
   - continue antibiotics for now as his leukocytosis has improved with
   starting this regimen
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**1-30**] sedation:  Mental status somewhat improved today. EEG pending.
 ATRIAL FIBRILLATION (AFIB):  Rate control has been poor with
   increased doses of metoprolol.  He appears somewhat volume depleted on
   exam.
   - transfuse as below
 Retroperitoneal bleed: Hct dropped again this AM but abdominal exam
   improved since yesterday.
   - transfuse 2U PRBCs
   - Vascular surgery consult given dropping hematocrit
   - continue aspirin for now given recent ischemia
   .
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   18 Gauge - [**2151-2-11**] 12:09 PM
   20 Gauge - [**2151-2-11**] 02:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 mins.

2151-02-15 08:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2151-2-14**] 02:00 PM
 Transfused 1 units, chased with lasix, bumped more than appropriately
   THIS AM
 mental status much improved; alert and follows simple commands
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2151-2-13**] 04:00 PM
   Vancomycin - [**2151-2-15**] 08:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-15**] 08:01 AM
   Ciprofloxacin - [**2151-2-15**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-15**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-15**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 104 (94 - 120) bpm
   BP: 123/72(91){90/64(76) - 123/79(92)} mmHg
   RR: 23 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,014 mL
                                                                  2,049 mL
   PO:
             TF:
                                                                  1,038 mL
                                                                    586 mL
   IVF:
                                                                  1,141 mL
                                                                    484 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,345 mL
                                                                    410 mL
   Urine:
                                                                  1,855 mL
                                                                    410 mL
   NG:
                                                                    330 mL
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                    669 mL
                                                                  1,639 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96% on RA
   Physical Examination
   General Appearance: Thin, elderly, thin
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular,
   borderline tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly bilaterally and at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   466 K/uL
   9.8 g/dL
   93 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   143 mEq/L
   28.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
   WBC
   9.8
   15.1
   13.8
   14.4
   11.6
   11.6
   Hct
   31.1
   27.2
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   Plt
   364
   429
   375
   [**Telephone/Fax (3) 971**]
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   TCO2
   29
   28
   Glucose
   104
   122
   103
   93
   93
   Other labs: PT / PTT / INR:16.9/27.3/1.5, CK / CKMB /
   Troponin-T:630/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging:
   [**2-14**] CXR
   FINDINGS:  Left lower lobe retrocardiac consolidation is persistent.
   Small-to-moderate left pleural effusion and probable small right pleura
   l
   effusion are unchanged.  Cardiomediastinum is within normal limits.  NG
    tube
   tip is in the stomach.  New faint ill-defined opacity in the right uppe
   r lobe
   could be due to aspiration given the clinical history.
   EEG PND
   Microbiology: [**2-12**] bcx PND
   [**2-12**] UCx negative
   [**2-6**] Bcx negative
   [**2-5**] bronchial washings with MSSA
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 much improved
   - f/u any neurology recs
   - Recent CT [**2-11**] without acute change, (unable to tolerate MRI)
   - seizure or status epilepticus is much less likely but follow up EEG
   - TSH, B12, folate, ammonia all unremarkable, so toxic metabolic
   unlikely
   - Could have encephalitis related to influenza
   - treat infections as below
   - restart home alzheimer
s meds
 Retroperitoneal hematoma
   -          HCT stable today after appropraite response to yesterday
   transfusion, would check HCT [**Hospital1 **]
   -          holding all heparin
   -          curbsided vascular, no intervention possible, keep INR ~1.5,
   serial HCTs
 Abdominal distension
   -          No evidence of obstruction on CT abdomen
   -          abdomen benign, follow serial exams.
 LEUKOCYTOSIS and FEVER - suspected VAP
   -          WBC stable today, low grade fevers continue
   -          Had grown MSSA from sputum [**2-5**],  coverage broadened earlier
   in the week to vanc/zosyn/cipro in the setting of witnessed apsiration
   and progressive leukocytosis.
   -          Likely will be impossible to obtain an uncontaminated sputum
   -          Given clinical improvement will narrow antibiotics to
   nafcillin (unlikely to have developed MRSA in 1 week
s time, and
   nafcillin is more cidal than vancomycin), d/c zosyn and cipro, change
   to levofloxacin for gram negative and atypicals
 PNEUMONIA, VIRAL
   -          s/p oseltamivir course
 Transaminitis
   -          suspect muscle source related to myoclonus as CKs were also
   elevated. Now resolving. Could also have been [**1-30**] influenza-related
   myopathy
   -          CKs trending downwards, making good urine, no e/o rhabdo
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          Continue beta blocker and ACEI
 DEMAND ISCHEMIA
   -          continue ASA (decrease to 81mg given RP bleed),  beta
   blocker, ACEI, and statin
 ATRIAL FIBRILLATION (AFIB)
   -          better rate control today, likely secondary to repleted
   intravascular volume s/p 1 unit of pRBCs yesterday.
   -          Continue metoprolol 75 qid
   -          Holding on anticoagulation in setting of finding of RP
   hematoma. Continue ASA as tolerated
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-15**] 06:54 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
 d/c arterial line prior to call
   out
   20 Gauge - [**2151-2-14**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor

2151-02-15 10:32:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2151-2-14**] 02:00 PM
   Transfused 1U PRBCs with appropriate response
   Mental status improved
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2151-2-13**] 04:00 PM
   Vancomycin - [**2151-2-15**] 08:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-15**] 08:01 AM
   Ciprofloxacin - [**2151-2-15**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-15**] 08:02 AM
   Other medications:
   aspirin, metoprolol 75 qid, captopril, zocor, free water
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-15**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 104 (94 - 120) bpm
   BP: 123/72(91){90/65(77) - 123/79(92)} mmHg
   RR: 23 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,014 mL
                                                                  2,203 mL
   PO:
             TF:
                                                                  1,038 mL
                                                                    720 mL
   IVF:
                                                                  1,141 mL
                                                                    503 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,345 mL
                                                                    410 mL
   Urine:
                                                                  1,855 mL
                                                                    410 mL
   NG:
                                                                    330 mL
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                    669 mL
                                                                  1,793 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.8 g/dL
   466 K/uL
   93 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   20 mg/dL
   110 mEq/L
   143 mEq/L
   28.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2151-2-11**]  04:42 AM
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
   WBC
   9.8
   15.1
   13.8
   14.4
   11.6
   11.6
   Hct
   31.1
   27.2
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   Plt
   364
   429
   375
   [**Telephone/Fax (3) 971**]
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   TCO2
   29
   28
   Glucose
   104
   122
   103
   93
   93
   Other labs: PT / PTT / INR:16.9/27.3/1.5, CK / CKMB /
   Troponin-T:630/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: worsened LLL opacity, increased interstitial edema
   Assessment and Plan
   79 y/o M admitted with respiratory failure for influenza pneumonia with
   staph superinfection, course c/b aspiration and retroperitoneal bleed.
 PNEUMONIA, VIRAL
   Influenza:  Resolved.  Oxygenating well on room air.
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE:  Felt to be viral
   cardiomyopathy (influenza).  On beta-blocker, ace-inhibitor, aspirin,
   statin.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Resolved.  Blood pressure
   stable.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Likely due to residual effects
   of sedation.  Markedly improved today.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI):  Felt to be demand
   in setting of sepsis/respiratory failure, versus biomarker elevation in
   setting of cardiomyopathy.
 ATRIAL FIBRILLATION (AFIB):  Rate control improved with blood
   transfusion so likely that some of his tachycardia was related to
   volume depletion.
 PNEUMONIA:  Likely aspiration as it happened in the setting of NGT
   placement with vomiting.  Will switch back to nafcillin for MSSA, cover
   aspiration with levoflox.
 ANEMIA:  Blood-loss related to RP bleed.  Hct stable.
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-15**] 06:54 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2151-2-5**] 02:37 PM
   20 Gauge - [**2151-2-14**] 06:00 PM
   Comments: d/c a-line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30

2151-02-16 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Called out but then called back in b/c of concern that he has poor
   mental status
 FEVER - 101.2
F - [**2151-2-16**] 04:00 AM
 PAN CULTURE - At [**2151-2-16**] 04:17 AM
   -- switched Abx back to vanc/zosyn/cipro from nafcillin and levo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2151-2-13**] 04:00 PM
   Ciprofloxacin - [**2151-2-15**] 08:01 AM
   Levofloxacin - [**2151-2-15**] 01:00 PM
   Nafcillin - [**2151-2-16**] 12:02 AM
   Vancomycin - [**2151-2-16**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-16**] 07:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-15**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-16**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.6
   HR: 104 (88 - 125) bpm
   BP: 129/70(86){105/57(71) - 164/94(179)} mmHg
   RR: 28 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  4,565 mL
                                                                  1,065 mL
   PO:
             TF:
                                                                  1,685 mL
                                                                    538 mL
   IVF:
                                                                    990 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    695 mL
   Urine:
                                                                    780 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,785 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: elderly, frail
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irreg,
   borderline tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse BS with expiratory
   wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, MS worse
   than yesterday
   Labs / Radiology
   500 K/uL
   10.9 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   137 mEq/L
   32.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
                             [**2151-2-16**]  12:30 AM
   WBC
   15.1
   13.8
   14.4
   11.6
   11.6
   13.1
   Hct
   27.2
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   32.2
   Plt
   429
   375
   369
   366
   466
   500
   Cr
   1.1
   1.1
   1.0
   1.0
   0.9
   TCO2
   29
   28
   Glucose
   122
   103
   93
   93
   108
   Other labs: PT / PTT / INR:17.0/27.7/1.5, CK / CKMB /
   Troponin-T:630/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: U/A with no Nitrites/LEs, 2 WBCs, 0 epis
   Imaging: [**2-16**] CXR PND
   EEG final read still PND
   Microbiology: [**2-16**] BCx NEG
   [**2-16**] UCx NEG
   [**2-16**] sputum contaminated sample
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
  now worsened after brief
   improvement on [**2-15**].
   - f/u any neurology recs
   - Recent CT [**2-11**] without acute change, (unable to tolerate MRI)
   - seizure or status epilepticus is much less likely but follow up EEG
   - TSH, B12, folate, ammonia all unremarkable, so toxic metabolic
   unlikely
   - Could have encephalitis related to influenza
   - treat infections as below
   - restart home alzheimer
s meds
 Retroperitoneal hematoma
   -          HCT stable today after appropraite response to yesterday
   transfusion, would check HCT [**Hospital1 **]
   -          holding all heparin
   -          curbsided vascular, no intervention possible, keep INR ~1.5,
   serial HCTs
 Abdominal distension
   -          No evidence of obstruction on CT abdomen
   -          abdomen benign, follow serial exams.
 LEUKOCYTOSIS and FEVER - suspected VAP
   -          WBC stable today, low grade fevers continue
   -          Had grown MSSA from sputum [**2-5**],  coverage broadened earlier
   in the week to vanc/zosyn/cipro in the setting of witnessed apsiration
   and progressive leukocytosis.
   -          Likely will be impossible to obtain an uncontaminated sputum
   -          Given clinical improvement will narrow antibiotics to
   nafcillin (unlikely to have developed MRSA in 1 week
s time, and
   nafcillin is more cidal than vancomycin), d/c zosyn and cipro, change
   to levofloxacin for gram negative and atypicals
 PNEUMONIA, VIRAL
   -          s/p oseltamivir course
 Transaminitis
   -          suspect muscle source related to myoclonus as CKs were also
   elevated. Now resolving. Could also have been [**1-30**] influenza-related
   myopathy
   -          CKs trending downwards, making good urine, no e/o rhabdo
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          Continue beta blocker and ACEI
 DEMAND ISCHEMIA
   -          continue ASA (decrease to 81mg given RP bleed),  beta
   blocker, ACEI, and statin
 ATRIAL FIBRILLATION (AFIB)
   -          better rate control today, likely secondary to repleted
   intravascular volume s/p 1 unit of pRBCs yesterday.
   -          Continue metoprolol 75 qid
   -          Holding on anticoagulation in setting of finding of RP
   hematoma. Continue ASA as tolerated
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-16**] 03:42 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-2-16**] 06:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-16 10:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2151-2-16**] 04:17 AM
 FEVER - 101.2
F - [**2151-2-16**] 04:00 AM
   Still delirious.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2151-2-13**] 04:00 PM
   Levofloxacin - [**2151-2-15**] 01:00 PM
   Nafcillin - [**2151-2-16**] 12:02 AM
   Vancomycin - [**2151-2-16**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-16**] 07:00 AM
   Ciprofloxacin - [**2151-2-16**] 10:01 AM
   Infusions:
   Other ICU medications:
   Other medications: Please see [**Month (only) **] (reviewed at rounds),
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-16**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.4
C (97.5
   HR: 96 (96 - 125) bpm
   BP: 103/79(85){103/49(66) - 164/94(179)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.4 kg (admission): 67 kg
   Height: 68 Inch
             Total In:
                                                                  4,565 mL
                                                                  1,383 mL
   PO:
             TF:
                                                                  1,685 mL
                                                                    720 mL
   IVF:
                                                                    990 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                  1,095 mL
   Urine:
                                                                    780 mL
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,785 mL
                                                                    288 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: continued myoclonus
   Labs / Radiology
   10.9 g/dL
   500 K/uL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   137 mEq/L
   32.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2151-2-11**]  05:16 AM
                             [**2151-2-12**]  05:31 AM
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
                             [**2151-2-16**]  12:30 AM
   WBC
   15.1
   13.8
   14.4
   11.6
   11.6
   13.1
   Hct
   27.2
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   32.2
   Plt
   429
   375
   369
   366
   466
   500
   Cr
   1.1
   1.1
   1.0
   1.0
   0.9
   TCO2
   29
   28
   Glucose
   122
   103
   93
   93
   108
   Other labs: PT / PTT / INR:17.0/27.7/1.5, CK / CKMB /
   Troponin-T:630/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:Units: %
   Range: 0-5 %, Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL,
   Fibrinogen:665 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: bilateral lower lobe infiltrates (worse than [**2-14**])
   Assessment and Plan
   79 y/o M w/influenza pneumonia, now s/p extubation.  Originally had
   improving mental status, but overnight was febrile and this AM looks
   worse than yesterday.
 FEVER:  Likely due to VAP/HCAP.  His abx were narrowed yesterday to
   cover aspiration pneumonia, so the new fever suggests that he has
   either MRSA, pseudomonas, or another resistant gram negative.  He has
   repeat cultures pending.
   - will treat with vanc, zosyn, and cipro for total 15 day course
 RETROPERITONEAL BLEED: Hct has been stable, INR 1.5.  Will repeat pm
   Hct and transfuse if <28.
 PNEUMONIA, VIRAL:  Influenza
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE:  Appeared volume
   depleted yesterday, so gave IVF.  On beta-blocker and ace-inhibitor.
   Holding anticoagulation given RP bleed.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Resolved.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**1-30**] sedation
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   latest troponin 0.13, no significant change in EKG
 ATRIAL FIBRILLATION (AFIB):  Metoprolol, no anticoag.
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2151-2-16**] 03:42 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2151-2-16**] 06:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  n/a
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min

2151-02-17 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remained confused
   Continued to have afib with sub-optimally controlled rate, started on
   diltiazem
   Neurology with no new recs, "assess for response to antibiotics" if
   none will consider LP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-2-15**] 01:00 PM
   Nafcillin - [**2151-2-16**] 12:02 AM
   Vancomycin - [**2151-2-16**] 06:10 PM
   Ciprofloxacin - [**2151-2-16**] 10:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2151-2-17**] 03:59 AM
   Metoprolol - [**2151-2-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-17**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38
C (100.4
   HR: 99 (92 - 117) bpm
   BP: 109/69(79) {91/41(55) - 200/174(181)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 66.4 kg (admission): 67 kg
   Height: 68 Inch
             Total In:
                                                                  2,884 mL
                                                                    310 mL
   PO:
             TF:
                                                                  1,259 mL
   IVF:
                                                                  1,040 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    590 mL
   Urine:
                                                                  2,310 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    574 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   Gen: awake, mumbles, no response to simple commands, fewer jerking
   movements
   HEENT: PERRLA
   Cor: irregularly irregular no m/e/g
   Resp: coarse BS with end expiratory wheezes anteriorly, posterior
   apices clear
   Abd: S/NT/ND, + BS, no obvious flakn ecchymosis
   Ext: WWP, no c/c/e, good peripheral pulses at DP b/l
   Labs / Radiology
   579 K/uL
   10.7 g/dL
   126 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   19 mg/dL
   107 mEq/L
   139 mEq/L
   31.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
                             [**2151-2-16**]  12:30 AM
                             [**2151-2-16**]  05:57 PM
                             [**2151-2-17**]  05:13 AM
   WBC
   13.8
   14.4
   11.6
   11.6
   13.1
   10.0
   Hct
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   32.2
   31.9
   31.1
   Plt
   375
   369
   366
   466
   500
   579
   Cr
   1.1
   1.0
   1.0
   0.9
   0.8
   TCO2
   28
   Glucose
   103
   93
   93
   108
   126
   Other labs: PT / PTT / INR:16.9/27.1/1.5 Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: [**2-16**] u/a negative for LE or nitrites, 2
   WBC, lg blood and tr protein
   Imaging: [**2-16**] CXR
   IMPRESSION:  Persistent left lower lobe collapse and small to moderate
   bilateral pleural effusions.
   EEG prelim with no focal spike/wave
   Microbiology: [**2-16**] BCx PND
   [**2-16**] UCx PND
   [**2-16**] sputum contaminated
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
  remains poor but stable after
   brief improvement on [**2-15**].
   - f/u neurology recs, if no response to antibiotics may need to
   consider LP
   - CT [**2-11**] without acute bleed or change (unable to tolerate MRI)
   - follow up final EEG results
   - TSH, B12, folate, ammonia all unremarkable, so toxic metabolic
   unlikely
   - Could have encephalopathy related to influenza
   - no evidence of UTI, treating known infections (suspected aspiration
   pneumonia) as below
 LEUKOCYTOSIS and FEVER
 may have a resistant gram negative
   aspiration PNA as he spiked through nafcillin/levo.
   -          Leukocytosis improving but remains low grade febrile
   -          covering broadly for HAP with vanc/zosyn/cipro  in the
   setting of witnessed aspiration and leukocytosis
   -          Will treat for 15 day course given suspicion for fermenting
   GNR
   -          f/u urine and blood cultures
   -          RP bleed with breakdown could be etiology of fever as well
 Retroperitoneal hematoma
   -          HCT stable >48 hrs
   -          check HCT daily, transfuse <27
   -          holding all heparin
   -          curbsided vascular, no intervention possible, keep INR ~1.5,
   serial HCTs
 Abdominal Pain
   -          likely due to retroperitoneal hematoma, no evidence of
   obstruction on CT abdomen
   -          follow serial exams.
 ATRIAL FIBRILLATION (AFIB)
   -          rate control improved with addition of CCB
   -          Continue metoprolol 50 qid, dilt 30 qid
   -          No anticoagulation in setting of finding of RP hematoma but
   continue low dose ASA.
 PNEUMONIA, VIRAL
   -          s/p oseltamivir course
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   -          Continue medical management with beta blocker and ACEI
 DEMAND ISCHEMIA
   -          continue [**Hospital 1034**] medical management with ASA (decreased to 81mg
   given RP bleed),  beta blocker, ACEI,  CCB, and statin
   ICU Care
   Nutrition:
   Comments: TF's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-2-16**] 06:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-17 11:05:00 Physician Attending Progress Note
Chief Complaint: altered mental status s/p respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major events
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-2-15**] 01:00 PM
   Nafcillin - [**2151-2-16**] 12:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-2-17**] 06:00 AM
   Vancomycin - [**2151-2-17**] 08:30 AM
   Ciprofloxacin - [**2151-2-17**] 10:28 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2151-2-17**] 03:59 AM
   Metoprolol - [**2151-2-17**] 06:00 AM
   Other medications:
   asa, PPI, captopril, statin, SQI, colace, dilt, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-17**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 91 (88 - 117) bpm
   BP: 109/40(59) {91/40(55) - 200/174(181)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.5 kg (admission): 67 kg
   Height: 68 Inch
             Total In:
                                                                  3,305 mL
                                                                  1,233 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                    585 mL
   IVF:
                                                                  1,040 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                  1,120 mL
   Urine:
                                                                  2,310 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   579 K/uL
   126 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   19 mg/dL
   107 mEq/L
   139 mEq/L
   31.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2151-2-12**]  06:02 AM
                             [**2151-2-12**]  08:52 PM
                             [**2151-2-13**]  04:01 AM
                             [**2151-2-13**]  04:41 PM
                             [**2151-2-14**]  04:05 AM
                             [**2151-2-14**]  05:03 PM
                             [**2151-2-15**]  05:25 AM
                             [**2151-2-16**]  12:30 AM
                             [**2151-2-16**]  05:57 PM
                             [**2151-2-17**]  05:13 AM
   WBC
   13.8
   14.4
   11.6
   11.6
   13.1
   10.0
   Hct
   22.2
   26.3
   26.6
   23.4
   29.7
   28.5
   32.2
   31.9
   31.1
   Plt
   375
   369
   366
   466
   500
   579
   Cr
   1.1
   1.0
   1.0
   0.9
   0.8
   TCO2
   28
   Glucose
   103
   93
   93
   108
   126
   Other labs: PT / PTT / INR:16.9/27.1/1.5, CK / CKMB /
   Troponin-T:630/6/0.20, ALT / AST:63/81, Alk Phos / T Bili:88/1.3,
   Amylase / Lipase:76/52, Differential-Neuts:91.8 %, Band:0.0 %,
   Lymph:5.0 %, Mono:2.9 %, Eos:0.1 %, D-dimer:1624 ng/mL, Fibrinogen:665
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:209 IU/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   79 y/o man with ongoing encephalopathy, as well as atrial fibrillation,
   following respiratory failure from influenza.
 ALTERED MENTAL STATUS (DELIRIUM).  Mental status has improved a bit.
   Investigated with CT and LP, which have been unrevealing.  Neurology is
   following.  Suspect he will slowly clear and that this is essentially
   toxic/metabolic.
 INFLUENZA PNEUMONIA -- s/p rx
 LEUKOCYTOSIS and FEVER
 Although we documented a Staph
   superinfection of his influenza pneumonia, his fairly unequivocal
   clinical response to tapering antibiotics (high fever, worse mental
   status) suggests that he may have additional pathogens that we failed
   to culture that are resistant to nafcillin/levofloxacin.  We will
   therefore treat for presumptive ventilator-acquired pneumonia for a
   full 15-day course.  Follow up other cultures.
 CONGESTIVE HEART FAILURE, SYSTOLIC, ACUTE
 the best explanation for
   this is probably viral cardiomyopathy, although certainly other things
   are in the differential.  Will need ongoing titration of afterload
   reduction, rate control, etc.  His compensation is substantially
   improved.
 RETROPERITONEAL HEMATOMA
 likely secondary to anticoagulation
   -          HCT stable >48 hrs
   -          check HCT daily, transfuse <27
   -          resume DVT prophylaxis dose heparin.  Reconsider
   anticoagulation later, potentially during this admission
 ATRIAL FIBRILLATION (AFIB)
   -          rate is adequately controlled at present
   -          see above regarding anticoagulation
 NSTEMI
   -          although he meets criteria for NSTEMI, this was most likely
   either myocarditis or demand.  Continue ASA (decreased to 81mg given RP
   bleed),  beta blocker, ACEI,  CCB, and statin
   ICU Care
   Nutrition:
   Comments: TF's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-2-16**] 06:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  n/a
   Need for restraints reviewed
   Comments:
   Code status: Full code
   Disposition: To floor